US07091219B2
Part A: Preparation of benzyl 3-(4-benzylpiperizin-1-yl sulfonyl)-2(R)-methylpropionate
A 100 mL round bottom flask equipped with magnetic stirring bar and N2 inlet was charged with 2.5 g benzyl 3-chlorosulfonyl-2(R)-methylpropionate in 25 mL CH2Cl2. The solution was cooled to 0° C. and charged with 1.57 mL (1.0 eq.) 4-benzylpiperazine and 1.26 mL NEt3. The reaction was stirred for 1 hour then concentrated in vacuo and partitioned between ethyl acetate and saturated sodium bicarbonate. The combined organics were washed with brine, dried over Na2SO4, and concentrated in vacuo to yield 3.4 g crude product. Flash chromatography (80:20 ethyl acetate/hexane) yielded 3.0 g pure product.

reactant | benzyl 3-chlorosulfonyl-2(R)-methylpropionate | 2.5 g | ClS(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C11H13ClO4S
reactant | 4-benzylpiperazine | 1.57 mL, 1.0 eq. | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | NEt3 | 1.26 mL | CCN(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-(4-benzylpiperizin-1-yl sulfonyl)-2(R)-methylpropionate | 3.0 g | C(C1=CC=CC=C1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C22H28N2O4S
